US04994560
The compound 2-carbomethoxy-3-(4-nitrophenyl)propanoic acid methyl ester (p-nitrobenzyl malonate dimethyl ester) (2.00 g, 7.55 mmole) was dissolved in 70 ml of ethyl acetate containing 5 percent palladiunm on carbon (1.0 g-Aldrich Chemical Company) catalyst and was hydrogenated in a Parr shaker employing 50 psig of hydrogen at 22° C. Hydrogen uptake was rapid (15 minutes) and the mixture was maintained under hydrogen pressure for another three hours. The pressure vessel was vented and flushed with nitrogen (N2). The suspension was filtered through a pad of celite and the solvent was removed in vacuo using a rotary evaporator to provide 3-(4-aminophenyl)-2-carbomethoxypropanoic acid methyl ester (p-aminobenzylmalonate dimethyl ester) (1.76 g, 7.41 mmole) as a light yellow oil in 98 percent yield. The structure was confirmed by 1H nuclear magnetic resonance (PNMR) and 13C nuclear magnetic resonance (CMR) as well as mass spectroscopy (MS) spectral analysis.

reactant | 2-carbomethoxy-3-(4-nitrophenyl)propanoic acid methyl ester | 7.55 mmole, 2.00 g | COC(C(CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC)=O | C12H13NO6
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | 3-(4-aminophenyl)-2-carbomethoxypropanoic acid methyl ester | 7.41 mmole, 1.76 g, 98 percent yield | COC(C(CC1=CC=C(C=C1)N)C(=O)OC)=O | C12H15NO4
